US09353060B2
To magnetically stirred 33 wt % hydrogen bromide (2.00 ml, 11.04 mmol) in acetic acid was added methyl 2-(((benzyloxy)carbonyl)amino)-2-(furan-2-yl)acetate (579 mg, 2 mmol). After stirring at room temperature for 1 hr, 25 mL of anhydrous ether was added to give methyl 2-amino-2-(furan-2-yl)acetate hydrobromide (468 mg, 1.983 mmol, 99% yield) as a grey solid. 1H NMR (400 MHz, DMSO-d6) δ 8.93 (s, 2H), 7.81 (dd, J=1.8, 0.8 Hz, 1H), 6.69 (m, 1H), 6.57 (dd, J=3.3, 1.9 Hz, 1H), 5.61 (s, 1H), 3.78 (s, 3H).

reactant | hydrogen bromide | 11.04 mmol, 2.00 ml | Br | BrH
reactant | methyl 2-(((benzyloxy)carbonyl)amino)-2-(furan-2-yl)acetate | 2 mmol, 579 mg | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)C=1OC=CC1 | C15H15NO5
reactant | ether | 25 mL | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 2-amino-2-(furan-2-yl)acetate hydrobromide | 1.983 mmol, 468 mg, 99% yield | Br.NC(C(=O)OC)C=1OC=CC1 | InChI=1S/C7H9NO3.BrH/c1-10-7(9)6(8)5-3-2-4-11-5;/h2-4,6H,8H2,1H3;1H
